US07423036B2
c) tert-butyl {1,1-dimethyl-3-[5-methyl-3-(4-trifluoromethyl-phenyl)-[1,2,4]triazol-1-yl]-propyl}-carbamate
The target compound is obtained analogously to the method described for intermediate product 1c) from 4.90 g (21.6 mmol) 5-methyl-3-(4-trifluoromethyl-phenyl)-1H-[1,2,4]triazol and 7.17 g (32.4 mmol) tert-butyl (3-chloro-1,1-dimethyl-propyl)-carbamate. White solid. Yield: 5.06 g (57%); mass spectroscopy [M+H]+=413.

reactant | 5-methyl-3-(4-trifluoromethyl-phenyl)-1H-[1,2,4]triazol | 21.6 mmol, 4.90 g | CC1=NC(=NN1)C1=CC=C(C=C1)C(F)(F)F | C10H8F3N3
reactant | tert-butyl (3-chloro-1,1-dimethyl-propyl)-carbamate | 32.4 mmol, 7.17 g | ClCCC(C)(C)NC(OC(C)(C)C)=O | C10H20ClNO2
product | tert-butyl {1,1-dimethyl-3-[5-methyl-3-(4-trifluoromethyl-phenyl)-[1,2,4]triazol-1-yl]-propyl}-carbamate | CC(CCN1N=C(N=C1C)C1=CC=C(C=C1)C(F)(F)F)(C)NC(OC(C)(C)C)=O | C20H27F3N4O2
